US03994900
b. N-[4-[3-(Dimethylamino)propoxy]phenyl]-3-phenylpropenamide, hydrochloride (1:1)
A solution of 16.6g of cinnamoyl chloride in 125 ml of chloroform is cooled to 15° C and treated dropwise with a solution of 19.4g of 4-[3-(dimethylamino)propoxy]benzenamine in 75 ml of chloroform, keeping the temperature between 15° and 20° C. After stirring for 1 hour, the mixture is heated at reflux for 1 hour, cooled to 25° C and treated with 300 ml of ether to yield 31.6g of material, melting point 253°-257° C, dec.

reactant | cinnamoyl chloride | 16.6g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 4-[3-(dimethylamino)propoxy]benzenamine | 19.4g | CN(CCCOC1=CC=C(C=C1)N)C | C11H18N2O
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-[3-(Dimethylamino)propoxy]phenyl]-3-phenylpropenamide, hydrochloride | 31.6g | Cl.CN(CCCOC1=CC=C(C=C1)NC(C=CC1=CC=CC=C1)=O)C | InChI=1S/C20H24N2O2.ClH/c1-22(2)15-6-16-24-19-12-10-18(11-13-19)21-20(23)14-9-17-7-4-3-5-8-17;/h3-5,7-14H,6,15-16H2,1-2H3,(H,21,23);1H
